US06653308B2
6.905 g of tetrazole (100 mmol) and 1.75 ml of diisopropylethylamine (10 mmol) and 11.73 ml of epichlorohydrine (150 mmol) in anhydrous acetonitrile (30 ml) was stirred at 60° C. for 4 hours. The obtained solution was evaporated, dried on highvac and purified on a column of silica in chloroform-methanol 100:8. The first fraction provided pure 3-(2-H-tetrazol-2-yl)-2-hydroxy-1-chloropropane, 6.215 g (colorless oil, 38% Y), the second fraction yielded 9.208 g of pure 3-(1-H-tetrazol-1-yl)]-2-hydroxyl-1-chloropropane (sticky gum; 57%Y).

reactant | tetrazole | 100 mmol, 6.905 g | N1N=NN=C1 | CH2N4
reactant | diisopropylethylamine | 10 mmol, 1.75 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | epichlorohydrine | 150 mmol, 11.73 ml | C(Cl)C1CO1 | C3H5ClO
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 3-(2-H-tetrazol-2-yl)-2-hydroxy-1-chloropropane | N=1N(N=NC1)CC(CCl)O | C4H7ClN4O
